US07888352B2
To a solution of 2-(BOC-amino)-5-bromopyridine (500 mg) in THF (20 mL) at 0° C. was added sodium hydride (88 mg) and the reaction stirred for 20 min. Then, iodoethane (0.18 mL) was added and the reaction stirred at room temperature for 16 h. The reaction was quenched with water (20 mL) and extracted into ethylacetate (3×20 mL). The organic layers were dried (MgSO4) and reduced in vacuo to give (5-bromo-pyridin-2-yl)-ethyl-carbamic acid tert-butyl ester as a white solid.

reactant | 2-(BOC-amino)-5-bromopyridine | 500 mg | C(=O)(OC(C)(C)C)NC1=NC=C(C=C1)Br | C10H13BrN2O2
reactant | sodium hydride | 88 mg | [H-].[Na+]
reactant | iodoethane | 0.18 mL | ICC | C2H5I
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (5-bromo-pyridin-2-yl)-ethyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CC)C1=NC=C(C=C1)Br)=O | C12H17BrN2O2
